US04310544
A solution of ethyl 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylpropionate (7.9 g.) in methanol (100 ml.) containing potassium hydroxide (11.0 g.) was heated under reflux for 2 hours and then evaporated. The residue was partitioned between water (100 ml.) and ether (30 ml.). The aqueous phase was separated and acidified with 4 N-hydrochloric acid to pH 2-3 and extracted with ether (3×30 ml.). These ether extracts were washed with water, dried (MgSO4) and evaporated. The residue was crystallised by treatment with a mixture of ethyl acetate and hexane to give 2-[4-(4-chlorophenyl)-benzyloxy]-2-phenylpropionic acid, (3.5 g.), m.p. 125°-126° C.

reactant | ethyl 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylpropionate | 7.9 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)OCC)(C)C2=CC=CC=C2)C=C1 | C24H23ClO3
reactant | potassium hydroxide | 11.0 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-[4-(4-chlorophenyl)-benzyloxy]-2-phenylpropionic acid | 3.5 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C)C2=CC=CC=C2)C=C1 | C22H19ClO3
